US03931247
A mixture of 200 g (1.16 mole) of p-aminophenyl methyl sulfone, 405 ml of concentrated hydrochloric acid, and 150 ml of water was heated at 80° for 20 minutes and then cooled to 0°. A solution of 80 g (1.16 mole) of sodium nitrite in 270 ml of water was added dropwise while maintaining the temperature between 0°-5° by means of an ice bath. The near solution was kept at 0° for 15 minutes. A solution of 129 g (1.16 mole) of methyl 2-furyl ketone in 125 ml of acetonitrile was added followed by a solution of 30 g of CuCl2 .2H2O in 100 ml of water. The reaction, after stirring in the cold for one hour, was allowed to warm to room temperature at which time it became exothermic and was controlled below 55° by means of an ice bath. The reaction, after stirring overnight at room temperature, was treated with 500 ml of ether with a solid forming. The solid was filtered, washed with dilute NaOH solution, and refluxed in acetonitrile with the insoluble material being removed by filtration. The filtrate was again heated to reflux and water was added to the "cloud point". Upon cooling an oil formed from which the acetonitrile was decanted. The acetonitrile was again treated with water and the resulting solid was filtered and recrystallized from ethyl acetate/charcoal and airdried to yield 28 g (9%) of 5-(p-methylsulfonylphenyl)-2-furyl methyl ketone. An analytical sample was prepared by drying a sample in the vacuum pistol at the temperature of refluxing CHCl3, m.p. 160°-164°.

reactant | p-aminophenyl methyl sulfone | 1.16 mole, 200 g | CS(=O)(=O)C1=CC=C(C=C1)N | C7H9NO2S
reactant | hydrochloric acid | 405 ml | Cl | ClH
reactant | sodium nitrite | 1.16 mole, 80 g | N(=O)[O-].[Na+]
reactant | methyl 2-furyl ketone | 1.16 mole, 129 g | O1C(=CC=C1)C(=O)C | C6H6O2
solvent | water | 270 ml | O | H2O
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 5-(p-methylsulfonylphenyl)-2-furyl methyl ketone | 28 g, 9% | CC(=O)C=1OC(=CC1)C1=CC=C(C=C1)S(=O)(=O)C | C13H12O4S
